USRE042930E1
To a stirred solution of (4S,7R,8S,9S,13R,14R,16S)-13-Azido-4,8,14-trihydroxy-5,5,7,9-tetramethyl-16-((E)-1-(2-methylthiazol-4-yl)prop-1-en-2-yl)oxacyclohexadecane-2,6-dione and (4S,7R,8S,9S,13S,14S,16S)-14-Azido-4,8,13-trihydroxy-5,5,7,9-tetramethyl-16-((E)-1-(2-methylthiazol-4-yl)prop-1-en-2-yl)oxacyclohexadecane-2,6-dione mixture (12.8 g, 23.85 mmol) in anhydrous acetonitrile (90 mL) was added triphenylphosphine (9.48 g, 35.77 mmol) under nitrogen atmosphere. The clear solution was stirred at 20-40° C. for 19-40 h. The reaction mixture was cooled to 0-5° C. for 3-4 h and filtered the product. The cake was washed with heptane (64 mL) and dried at 40° C. under reduced pressure for 15-18 h to give (1S,3S,7S,10R,11S,12S16R)-7,11-dihydroxy-8,8,10,12-tetramethyl-3-((E)-1-(2-methylthiazol-4-yl)prop-1-en-2-yl)-4-oxa-17-azabicyclo(14.1.0)heptadecane-5,9-dione as a white solid (5.41 g, 46%). LC-MS: Phenomenex Luna C8(2) column: 3 μm, 4.6×50 mm. Gradient: 15 min, 0% B to 100% B in 10 min, then 100% B for 5 min. Mobile phases: A=0.01 M NH4OAc in CH3CN/H2O 5:95; B=0.01 M NH4OAc in CH3CN/H2O 95:5. Flow rate: 3.0 mL/min. Wavelength: UV 250 nm. Retention time=4.43 min. MS (ESI) (M+H)+=493.68

reactant | (4S,7R,8S,9S,13R,14R,16S)-13-Azido-4,8,14-trihydroxy-5,5,7,9-tetramethyl-16-((E)-1-(2-methylthiazol-4-yl)prop-1-en-2-yl)oxacyclohexadecane-2,6-dione | N(=[N+]=[N-])[C@@H]1CCC[C@@H]([C@@H]([C@H](C(C([C@H](CC(O[C@@H](C[C@H]1O)/C(=C/C=1N=C(SC1)C)/C)=O)O)(C)C)=O)C)O)C | C26H40N4O6S
reactant | (4S,7R,8S,9S,13S,14S,16S)-14-Azido-4,8,13-trihydroxy-5,5,7,9-tetramethyl-16-((E)-1-(2-methylthiazol-4-yl)prop-1-en-2-yl)oxacyclohexadecane-2,6-dione | 23.85 mmol, 12.8 g | N(=[N+]=[N-])[C@@H]1[C@H](CCC[C@@H]([C@@H]([C@H](C(C([C@H](CC(O[C@@H](C1)/C(=C/C=1N=C(SC1)C)/C)=O)O)(C)C)=O)C)O)C)O | C26H40N4O6S
reactant | triphenylphosphine | 35.77 mmol, 9.48 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | 90 mL | C(C)#N | C2H3N
product | (1S,3S,7S,10R,11S,12S16R)-7,11-dihydroxy-8,8,10,12-tetramethyl-3-((E)-1-(2-methylthiazol-4-yl)prop-1-en-2-yl)-4-oxa-17-azabicyclo(14.1.0)heptadecane-5,9-dione | 5.41 g, 46% | O[C@H]1CC(O[C@@H](C[C@@H]2N[C@@H]2CCC[C@@H]([C@@H]([C@H](C(C1(C)C)=O)C)O)C)/C(=C/C=1N=C(SC1)C)/C)=O | C26H40N2O5S
